US07799822B2
4-(4-(3-(5-Chloro-1H-indol-1-yl)propanoyl)piperazin-1-yl)-N-(pyrimidin-4-yl)benzenesulfonamide
Synthesized according to general procedure 5, method A. The reaction was set up with 0.11 mmol 4-(piperazin-1-yl)-N-(pyrimidin-4-yl)benzenesulfonamide, 0.17 mmol 3-(5-chloro-1H-indol-1-yl)propanoic acid, 0.17 mmol BOP reagent, 0.17 mmol triethylamine and 300 μL DMF. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=525.2; tR=2.87 min.

reactant | 4-(piperazin-1-yl)-N-(pyrimidin-4-yl)benzenesulfonamide | 0.11 mmol | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC=C1 | C14H17N5O2S
reactant | 3-(5-chloro-1H-indol-1-yl)propanoic acid | 0.17 mmol | ClC=1C=C2C=CN(C2=CC1)CCC(=O)O | C11H10ClNO2
reactant | BOP reagent | 0.17 mmol | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.17 mmol | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
product | 4-(4-(3-(5-Chloro-1H-indol-1-yl)propanoyl)piperazin-1-yl)-N-(pyrimidin-4-yl)benzenesulfonamide | ClC=1C=C2C=CN(C2=CC1)CCC(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC=C1 | C25H25ClN6O3S
